US05324710
2,6-Dichlorophenyl sulfamate
2.6 ml of water are added dropwise at 30° C. to 40° C. to a solution of 24.4 g of 2,6-dichlorophenoxysulfonyl isocyanate in 200 ml of tetrachloromethane. The mixture is then stirred at room temperature until the evolution of carbon dioxide is complete and cooled to 0° C., the product is filtered off with suction and the residue is then washed with ice-cold tetrachloromethane. After drying in vacuo, 21.4 g of 2,6-dichlorophenyl sulfamate of melting point 108°-110° C. are obtained.

reactant | water | 2.6 ml | O | H2O
reactant | 2,6-dichlorophenoxysulfonyl isocyanate | 24.4 g | ClC1=C(OS(=O)(=O)N=C=O)C(=CC=C1)Cl | C7H3Cl2NO4S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrachloromethane | 200 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2,6-Dichlorophenyl sulfamate | S(N)(OC1=C(C=CC=C1Cl)Cl)(=O)=O | C6H5Cl2NO3S
